US07320973B2
60% sodium hydride (48 mg, 1.2 mmol) was washed with hexane in argon gas stream and then suspended in dimethyl sulfoxide (8 ml). The obtained suspension was stirred at room temperature for 30 minutes. 7-Chloro-5,11-dihydrodibenzo[b,e][1,4]oxazepine (232 mg, 1 mmol) was added to the suspension, and they were stirred at room temperature for 30 minutes and then at 50° C. for 30 minutes. A solution of (R)-3-chloro-1-(3,4-methylenedioxyphenethyl)piperidine (308 mg, 1.15 mmol) in dimethyl sulfoxide (3 ml) was added dropwise to the obtained solution, and they were stirred at 50° C. for 4 hours. The reaction mixture was distributed into saturated aqueous sodium hydrogencarbonate solution and ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (10:1) as the eluent, suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (R)-7-chloro-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidin-2-ylmethyl]-dibenzo[b,e][1,4]oxazepine in the form of a light yellow solid (362 mg, 78%).

reactant | sodium hydride | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | 7-Chloro-5,11-dihydrodibenzo[b,e][1,4]oxazepine | 1 mmol, 232 mg | ClC1=CC2=C(OCC3=C(N2)C=CC=C3)C=C1 | C13H10ClNO
reactant | (R)-3-chloro-1-(3,4-methylenedioxyphenethyl)piperidine | 1.15 mmol, 308 mg | Cl[C@H]1CN(CCC1)CCC1=CC2=C(C=C1)OCO2 | C14H18ClNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-7-chloro-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidin-2-ylmethyl]-dibenzo[b,e][1,4]oxazepine | ClC1=CC2=C(OCC3=C(N2C[C@@H]2N(CCC2)CCC2=CC4=C(C=C2)OCO4)C=CC=C3)C=C1 | C27H27ClN2O3
